US07846411B2
Preparation of Calcium Peroxydiphosphate
Dissolve 3.46 grams of potassium peroxydiphosphate in 10 ml of water. To this solution, add 2.94 grams of calcium chloride dihydrate under stirring, in order to precipitate calcium peroxydiphosphate. Filter the resulting slurry and wash it with distilled water. The solid to be recovered contains calcium peroxydiphosphate.

reactant | potassium peroxydiphosphate | 3.46 grams | [O-]P([O-])(=O)OOP(=O)([O-])[O-].[K+].[K+].[K+].[K+]
reactant | calcium chloride dihydrate | 2.94 grams | O.O.[Cl-].[Ca+2].[Cl-]
solvent | water | 10 ml | O | H2O
product | Calcium Peroxydiphosphate | [O-]P([O-])(=O)OOP(=O)([O-])[O-].[Ca+2].[Ca+2] | InChI=1S/2Ca.H4O8P2/c;;1-9(2,3)7-8-10(4,5)6/h;;(H2,1,2,3)(H2,4,5,6)/q2*+2;/p-4
